US06335360B1
4,5-Methylenedioxyindoline-2(R/S)-carboxylic acid
This compound was prepared from 4,5-methylenedioxyindole-2-carboxylic acid methyl ester as described in example 1. However this time 10 equivalence of magnesium turnings were used instead of 2-3 eq. of magnesium turnings. The product was purified by column chromatography on silica gel using 7:3 petroleum spirit:ethyl acetate as eluent.

reactant | 4,5-methylenedioxyindole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=C3C(=C2C1)OCO3 | C11H9NO4
reactant | magnesium | [Mg] | Mg
reactant | magnesium | 2-3 eq. | [Mg] | Mg
product | 4,5-Methylenedioxyindoline-2(R/S)-carboxylic acid | C1OC2=C3CC(NC3=CC=C2O1)C(=O)O | C10H9NO4
